US09370517B2
To a mixture of 3-phenyl-5,7-bis(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-2-ol (500 mg, 1.44 mmol, 1.0 eq) in 9.3 mL DCM was added triethylamine (0.30 mL, 2.16 mmol, 1.5 eq). The reaction mixture was cooled to 0° C. and trifluoromethanesulfonic anhydride (0.27 mL, 1.58 mmol, 1.1 eq) was added dropwise. The mixture was stirred for 10 min at 0° C. and then for 1 h at rt. After addition of DCM and water, the organic phase was washed with water and the volatile components were removed in vacuo. The crude product was purified by preparative MPLC [Biotage Isolera: SNAP cartridge 25 g, hexane→hexane/ethyl acetate (4/1)] to give 660 mg (91%) of 3-phenyl-5,7-bis(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-2-yl trifluoromethanesulfonate that was directly used as described in the following:

reactant | 3-phenyl-5,7-bis(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-2-ol | 1.44 mmol, 500 mg, 1.0 eq | C1(=CC=CC=C1)C=1C(=NN2C1N=C(C=C2C(F)(F)F)C(F)(F)F)O | C14H7F6N3O
reactant | triethylamine | 2.16 mmol, 0.30 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.58 mmol, 0.27 mL, 1.1 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | DCM | 9.3 mL | C(Cl)Cl | CH2Cl2
product | 3-phenyl-5,7-bis(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-2-yl trifluoromethanesulfonate | 660 mg, 91% | FC(S(=O)(=O)OC1=NN2C(N=C(C=C2C(F)(F)F)C(F)(F)F)=C1C1=CC=CC=C1)(F)F | C15H6F9N3O3S
